US09446034B2
To the solution of 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-5-fluorobenzoic acid (1128 mg, 2.79 mmol) in N,N-dimethylformamide (DMF) (20 mL) was added HOBT (513 mg, 3.35 mmol) followed by EDC (643 mg, 3.35 mmol) and the reaction mixture stirred for 30 min. To this solution was added o-methoxylamine hydrochloride (280 mg, 3.35 mmol) and after 30 min, at 0° C. DIEA (1.460 mL, 8.38 mmol) was added. The reaction mixture was stirred at room temperature 24 hr. Water (100 mL) was added followed by acetic acid (1 mL) and the solution extracted with 2×50 ml of ethyl acetate. The organic layer was separated, washed with 2×50 ml sat KHCO3, brine, dried over MgSO4 and evaporated. The resulting oil was suspended in dichloromethane and filtered. 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-5-fluoro-N-(methyloxy)benzamide (620 mg, 1.361 mmol, 48.7% yield) was isolated as a white solid. 1H NMR (400 MHz, DMSO-d6) ppm 1.26 (d, J=6.57 Hz, 6 H) 2.10 (s, 3 H) 3.69 (s, 3 H) 4.38 (quin, J=6.57 Hz, 1 H) 5.92 (s, 1 H) 6.50 (s, 1 H) 7.41-7.52 (m, 2 H) 7.58 (dd, J=8.72, 4.67 Hz, 1 H) 7.96 (s, 1 H) 8.46 (s, 1 H) 9.10 (s, 1 H) 11.95 (s, 1 H); HPLC Rt=2.24 min, MS (ESI): 433.4 [M+H]+.

reactant | 2-[(5-chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-5-fluorobenzoic acid | 2.79 mmol, 1128 mg | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)O)C=C(C=C1)F | C19H19ClFN5O2
reactant | HOBT | 3.35 mmol, 513 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.35 mmol, 643 mg
reactant | DIEA | 8.38 mmol, 1.460 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | Water | 100 mL | O | H2O
product | 2-[(5-Chloro-2-{[3-methyl-1-(1-methylethyl)-1H-pyrazol-5-yl]amino}-4-pyridinyl)amino]-5-fluoro-N-(methyloxy)benzamide | 1.361 mmol, 620 mg, 48.7% yield | ClC=1C(=CC(=NC1)NC1=CC(=NN1C(C)C)C)NC1=C(C(=O)NOC)C=C(C=C1)F | C20H22ClFN6O2
